Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chemotherapy
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ female with transformed diffuse large B cell lymphoma 
presents today for cycle 3 of R-ICE.  She was initially 
diagnosed with follicular lymphoma in ___, and relapsed in ___ 
with a transformation to DLBCL. She will collect her stem cells 
for autologous transplant after this cycle. Her workup is 
complete. The plan is for XRT after auto, as she has a residual 
avid area in her abdominal mass. Today, she reports improving 
neck pain, for which she has been using occasional valium, soft 
collar, and warmth. It started last week. Otherwise, no HA, 
neuro changes, n/v/d, fevers chills.
 
Past Medical History:
Follicular lymphoma stage IIA with disease recurrence
- ___ developed worsening musculoskeletal back pain, early 
satiety, hypoalbuminemia and found to have mesenteric mass
- ?___ ex lap with 15 cm lobulated mass involving the 
duodenum, retroperitoneum and celiac access.  Biopsies showed 
Follicular lymphomas grade II/III.  Reportedly negative staging 
Gallium scan. CD10+ BCL2+
- ___ completed 6 cycles CHOP, complications included 
SVC/innominate thrombus (tPA)
- ___ CT showed persistent 7 x 3.5 x 9 cm oblong mass, bone
marrow at completion was negative for lymphomatous involvement.
- ___ PET-CT with very slight amount of increased tracer
activity within the posterior left supraclavicular region. No
other areas of FDG avid disease were noted 
- ___ through ___ per records she was treated with CVP
followed by course of single agent Rituxan
- ___ through ___ surveillance imaging with no evidence of
recurrent disease, stable mesenteric mass.
- ___ abdominal pain led to CT with no change in mass size,
increased conspicuity of nodular borders
- ___ PET-CT with L. hilar LN PET-avid to SUV 7.9, otherwise
stable mesenteric mass with low level SUV 2.2 stable since 
prior.
- ___ CT torso showed persistent mesenteric and left hilar
lymphadenopathy. Stable right middle lobe small focus of ground
glass opacity and adjacent subpleural fat hypertrophy, 
suggestive
of inflammatory process. Stable right adnexal cyst.  
- ___ Presented to PCP ___ ___iscomfort. 
Exam
revealed new adenopathy. Labs notable for LDH 341, WBC 10.1,
normal differential, PLT 452. 
- ___ PET CT revealed, "Large left cervical,
supraclavicular, mediastinal lymphadenopathy, and 
retroperitoneal lymphadenopathy, and small mesenteric 
lymphadenopathy, all of which is markedly FDG-avid and 
concerning for
lymphoma." SUVmax 35.5.
- ___iopsy revealed diffuse large B cell
lymphoma, CD20+ CD10+ lambda restricted. MIB and cytogenetics 
are pending
- ___ C1D1 ICE

PAST MEDICAL/SURGICAL HISTORY:  
Cerebral Aneurysm s/p coil ___ c/b hyperthesia of R V1/V2 
(*Known slight CN VI palsy & mild proptosis of R eye)
Hypogammaglobulinemia, 
Mild GERD
OA / LBP
Small Intestinal Bacterial Overgrowth
Trochanteric Bursitis
s/p Excisional Bx L Cervical Lymph Node
s/p L total knee replacement ___
s/p I&D Labial Abscess
s/p Excision Cyst R ___ Digit of Hand

 
Social History:
___
Family History:
NC
 
Physical Exam:
General: WDWN female, NAD, A&Ox4. Ptosis noted R, ansicoria L>R
(known).
HEENT: oropharynx no lesions
Neck: neck limited extention, rotation to R. No meningsmus. No
adenopathy throughout   
CV:  RRR no m/r/g
Lungs: CTA
Abdomen: soft NT -HSM
Ext:  no edema 
Neuro: as above
Access: R chest IJ c/d/i

 
Pertinent Results:
___ 12:00AM BLOOD WBC-2.7* RBC-2.47* Hgb-7.8* Hct-23.9* 
MCV-96 MCH-31.4 MCHC-32.5 RDW-20.6* Plt ___
___ 12:35AM BLOOD WBC-4.0 RBC-2.45* Hgb-7.9* Hct-23.5* 
MCV-96 MCH-32.1* MCHC-33.6 RDW-20.1* Plt ___
___ 12:10AM BLOOD WBC-5.4 RBC-2.80* Hgb-8.6* Hct-27.4* 
MCV-98 MCH-30.6 MCHC-31.4 RDW-20.7* Plt ___
___ 12:00AM BLOOD Neuts-90.3* Lymphs-4.5* Monos-4.8 Eos-0.4 
Baso-0
___ 12:35AM BLOOD Neuts-95.3* Lymphs-2.9* Monos-1.4* 
Eos-0.3 Baso-0
___ 12:10AM BLOOD Neuts-94.4* Lymphs-3.6* Monos-1.6* 
Eos-0.5 Baso-0
___ 12:00AM BLOOD Glucose-132* UreaN-13 Creat-0.6 Na-141 
K-3.6 Cl-105 HCO3-24 AnGap-16
___ 12:35AM BLOOD Glucose-156* UreaN-14 Creat-0.7 Na-140 
K-4.1 Cl-106 HCO3-24 AnGap-14
___ 12:10AM BLOOD Glucose-184* UreaN-14 Creat-0.7 Na-139 
K-4.3 Cl-104 HCO3-25 AnGap-14
___ 12:00AM BLOOD ALT-12 AST-14 LD(LDH)-189 AlkPhos-71 
TotBili-0.2
___ 12:35AM BLOOD ALT-11 AST-12 LD(___)-206 AlkPhos-77 
TotBili-0.2
___ 12:10AM BLOOD ALT-14 AST-18 LD(___)-256* AlkPhos-100 
TotBili-0.___LBCL transformed from follicular lymphoma: Ms. ___ was 
admitted for cycle 3 of R-ICE with goal of collection with this 
cycle, for which she has a right chest tunnelled line. Tolerated 
the chemo, except for some nausea and poor appetite, which were 
treated with anti-emetics. She will start her G-CSF upon 
discharge. She was started on Ciprofloxacin prophylaxis in 
anticipation of HSCT. She remains on Bactrim for PJP 
prophylaxis. She will f/u in ___ clinic regarding 
collection of her cells and schedule her transplant.
.
# history of coiled aneuyrsm and TIA: Her Aspirin was continued, 
but she was advised to stop on ___ since her platelets are 
expected to drop later this week. Her statin was held during 
chemo, which was resumed upon discharge.
.
# Torticolis, neck pain: Continued home regimen with Valium PRN, 
heat, and soft collar. She denied neck pain/stiffness at the 
time of discharge.
.
# Migraine: She had migrainous headaches during admission, which 
resolved on their own.
.
# Volume overload: She experienced mild volume overload and 
weight gain during her chemo course, which responded to a Lasix 
bolus x1. Her discharge weight was 245.0 lbs. She was advised to 
take oral Lasix PRN at home or to call clinic, if she notices 
increased swelling.
.
# Access: Right chest double-lumen tunneled line. There were 
intermittently problems with drawing blood and flushes, which 
appeared to be positional in nature. This was successfully 
managed with tPA. Pheresis team evaluated abilty to use line, 
and felt it should be adequate for collection despite positional 
nature. Patient was advised to call clinic if she has any 
further issues with the line.
.
All other chronic issues stable.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q8H 
2. Allopurinol ___ mg PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Gabapentin 900 mg PO BID 
5. Multivitamins 1 TAB PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Ondansetron 8 mg PO Q8H:PRN nausea 
8. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
9. Pravastatin 10 mg PO DAILY 
10. Prochlorperazine 10 mg PO Q6H:PRN nausea 
11. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
12. Venlafaxine 25 mg PO BID 
13. Furosemide 20 mg PO DAILY 

 
Discharge Medications:
1. Acyclovir 400 mg PO Q8H 
2. Allopurinol ___ mg PO DAILY 
3. Aspirin 81 mg PO DAILY - through ___
4. Gabapentin 900 mg PO BID 
5. Omeprazole 20 mg PO DAILY 
6. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
7. Prochlorperazine 10 mg PO Q6H:PRN nausea 
8. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
9. Venlafaxine 25 mg PO BID 
10. Ondansetron 8 mg PO Q8H:PRN nausea 
11. Furosemide 20 mg PO DAILY 
12. Multivitamins 1 TAB PO DAILY 
13. Pravastatin 10 mg PO DAILY 
14. Ciprofloxacin HCl 500 mg PO Q12H 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Lymphoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory
 
Discharge Instructions:
Dear Ms. ___,
.
It was a pleasure to meet you at the ___ 
___. You were admitted to receive chemotherapy both 
to treat your lymphoma and to mobilize your stem cells, which 
you sucessfully completed while with us. 
.
You will inject yourself with neupogen, following the calendar 
that ___ gives you. These injections may cause bone pain, 
take oxycodone should you experience this.  As prior, do not 
drive.
.
Continue all of your home medications as prior. We have added 
cipro to prevent infection while you collect. You should stop 
taking Aspirin on ___ because we expect your 
platelets to start dropping later this week.
.
Thank you again for allowing us to participate in your care!
.
 
Followup Instructions:
___